US07094789B2
(Step A) Synthesis of 3-(N-tert-butoxycarbonylamino)-2,2-dimethylpropylamine (Intermediate 56)
Water (340 ml) and t-butyl alcohol (200 ml) were added with 2,2-dimethyl-1,3-propylenediamine (25 g), added successively with 4 N aqueous sodium hydroxide (20.5 ml) and a solution of di-t-butyl dicarbonate (21.4 g) in t-butyl alcohol with ice cooling and stirred at room temperature for 16 hours. The solvent (t-butyl alcohol) was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (6 g).

reactant | Water | 340 ml | O | H2O
reactant | 2,2-dimethyl-1,3-propylenediamine | 25 g | CC(CN)(CN)C | C5H14N2
reactant | sodium hydroxide | 4 N, 20.5 ml | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 21.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | t-butyl alcohol | 200 ml | C(C)(C)(C)O | C4H10O
product | 3-(N-tert-butoxycarbonylamino)-2,2-dimethylpropylamine | 6 g | C(C)(C)(C)OC(=O)NCC(CN)(C)C | C10H22N2O2
